Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3][C@@:8]([C:6](=[C:4][H:5])[H:7])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],-2.8206758341
[H:1][C:2]#[C:3][C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:4][H:5]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.06701576814
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]=[C:11]([H:12])[H:13].[H:1][O:2],5.333802220919999
[O:1]=[C:2]=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[O:1][C:2][C:3],3.976803829730002
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-1.46791171385
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6].[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],4.757945417749999
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3]#[C:4][H:5].[H:1][C:2]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],5.65425168939
[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:3][H:4].[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],5.38821544265
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7][C:9]([H:10])([H:11])[H:12].[H:8]>>[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-4.19911757815
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[O:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12],2.69476649641
[H:1][C:2]([O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2](=[O:3])[C:14]([H:15])([H:16])[H:17],0.571984016718
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]=[C:11]([H:12])[H:13].[H:10],4.74969378803
[C:5]([C:6]#[C:7][H:8])[O:9][H:10].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]/[C:3]([H:4])=[C:5](/[C:6]#[C:7][H:8])[O:9][H:10],-0.9983758339700002
[H:1][C:2]([H:3])([H:4])[C:5][C:11]([C:8]([C:7]=[O:6])([H:9])[H:10])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][C:7][C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-1.4486591919799998
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:3]([H:4])=[C:5]([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2],6.63505207327
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])=[C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3],5.25087066731
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:10][H:11].[H:9],4.2561780209099975
[H:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])=[C:5]=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:4],1.88366678443
[H:6].[O:1]=[C:2]=[C:3]([C:4]#[C:5])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]=[C:3]([C:4]#[C:5][H:6])[C:7]([H:8])([H:9])[H:10],-5.27886375039
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])=[O:9],0.430479992201
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][C:11]([H:12])[H:13]>>[C:6]([H:7])([H:8])=[C:9][O:10][C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[H:5],2.45564491098
[H:1][O:2].[O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14],-3.25811650027
[H:1][C:2]([C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13])=[C:14]([H:15])[H:16]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]1([H:15])[H:16],1.55295593641
[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.84096058486
[H:1][C:2]#[C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:5],4.84811543535
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:8]([H:9])#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7],2.38054321565
